US06448244B1
A mixture of (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one (0.05 mol) (prepared as described in EP-A-0,228,125 and (+)-(R)-α-methylbenzenemethanamine (0.1 mol) in TBF (500ml) was hydrogenated at 50° C. for 48 hours with Pd/C 10% (10 g) as a catalyst in the presence of titanium(IV) n-butoxide (28.4 g) and thiophene solution (10 ml). The catalyst was filtered off. Pd/C 10% (10 g) was added again. Hydrogenation was continued at 50° C. for 48 hours. After uptake of H2, the mixture was cooled, then the catalyst was filtered off and the filtrate was evaporated. The residue was stirred in CH2Cl2 (500 ml) and H2O (50ml) was added. The mixture was acidified with a concentrated HCl solution, alkalized with a concentrated NH4OH solution and filtered over dicalite. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was triturated in DIPE, filtered off and dried, yielding 23.5 g (91%) of [(R*,R*)(R)+(R*,S*)(R)]-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[2-[( 1 -phenylethyl)amino]-1 -methylpropyl]-3H-1,2,4-triazol-3-one (interm. 1).

reactant | (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one | 0.05 mol | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)=O)C)=O | C22H25N5O3
reactant | (+)-(R)-α-methylbenzenemethanamine | 0.1 mol | C[C@@H](N)C1=CC=CC=C1 | C8H11N
catalyst | Pd/C | 10 g | [Pd] | Pd
catalyst | titanium(IV) n-butoxide | 28.4 g | CCCCO.CCCCO.CCCCO.CCCCO.[Ti]
solvent | thiophene | 10 ml | S1C=CC=C1 | C4H4S
product | 2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[2-[( 1 -phenylethyl)amino]-1 -methylpropyl]-3H-1,2,4-triazol-3-one | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)NC(C)C1=CC=CC=C1)C)=O | C30H36N6O2
